US05532236
8-Bromo-7-(1H-imidazol-1-yl)[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione
To a solution of 0.94 g (~3.5 mmol) of 7-(1H-Imidazol-1-yl)[1,2,4]triazolo [4,3-a]quinoxaline-1,4(2H,5H)-dione in 7.5 ml concentrated (95-97%) sulfuric acid was added first 1.22 g (~3,9 mmol) silver sulfate and then 0.2 ml (~3.9 mmol) bromine. Stirring was continued at 24° C. for 48 h. The reaction mixture was filtered from silver bromide and then poured into 40 ml ice-water. The precipitate was filtered off to give a crude product. To a solution of the crude product in water was added 4N sodium hydroxide to pH=6 to give the title compound as a precipitate (0.42 g; 35%). M.p.>300° C. (decomp.).

reactant | 7-(1H-Imidazol-1-yl)[1,2,4]triazolo [4,3-a]quinoxaline-1,4(2H,5H)-dione | ~3.5 mmol, 0.94 g | N1(C=NC=C1)C=1C=C2NC(C=3N(C2=CC1)C(NN3)=O)=O | C12H8N6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | bromine | ~3.9 mmol, 0.2 ml | BrBr | Br2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | O | H2O
catalyst | silver sulfate | ~3,9 mmol, 1.22 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 8-Bromo-7-(1H-imidazol-1-yl)[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione | BrC1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)N3C=NC=C3 | C12H7BrN6O2
